US04533661
A solution of (S)-3-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester in dioxane is treated with hydrazine hydrate and stirred for 24 hours at room temperature. The mixture is then partitioned between ethyl acetate-water and the ethyl acetate phase is washed with water and saturated sodium chloride, dried (Na2SO4), and evaporated. The residue is taken up in dry toluene and refluxed for one hour. The mixture is filtered, treated with triethylamine and benzoyl chloride and stirred at room temperature for 30 minutes. The mixture is diluted with ethyl acetate, washed successively with 5% potassium bisulfate, saturated sodium bicarbonate, and saturated sodium chloride, dried (Na2SO4), and evaporated. The residue is chromatographed on silica gel to give (S)-3-[[[2-(benzoylamino)-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester.

reactant | (S)-3-[[[2-phthalimido-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester | C1(C=2C(C(N1C(CP(=O)(OCC)N[C@@H]1C(N(CCC1)CC(=O)OCC)=O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C28H34N3O7P
reactant | hydrazine hydrate | O.NN
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-[[[2-(benzoylamino)-3-phenylpropyl]ethoxyphosphinyl]amino]-2-oxo-1-piperidineacetic acid, ethyl ester | C(C1=CC=CC=C1)(=O)NC(CP(=O)(OCC)N[C@@H]1C(N(CCC1)CC(=O)OCC)=O)CC1=CC=CC=C1 | C27H36N3O6P
